data/oMe_Silver.jsonl
{"reaction_id": "NR-222_1-c1cccc2ccccc12_2-C1CCCCC1_3-c1ccc(F)cc1_4-c1ccccc1","level": "medium","name": "Pinacol Coupling","reactants_smiles": ["C1=CC=C(C=C1)C(=O)"],"products_smiles": ["C(O)(c1cccc2ccccc12)(C(O)(c1cccc2ccccc12)C(C1CCCCC1)(c1ccc(F)cc1)c1ccccc1)C(C1CCCCC1)(c1ccc(F)cc1)c1ccccc1"],"conditions": "Mg","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "radical","subtype": "radical_coupling","intermediate_smiles": "[CH](c1cccc2ccccc12)O[Mg]O[CH]C(c1cccc2ccccc12)","step_weight": 0,"rationale": "Mg donates electrons to the carbonyls, forming ketyl radicals stabilized by resonance with the aromatic ring; radical–radical coupling is favored due to high radical concentration and proximity, forming a new C–C bond."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1cccc2ccccc12)(C(c1cccc2ccccc12)O)O","step_weight": 0,"rationale": "The alkoxide oxygens, strongly basic after coupling, are protonated under workup conditions, driven by the thermodynamic stability of neutral diols and the high basicity of the alkoxide intermediates."}],"description": "Under Mg-mediated conditions, the carbonyl groups are reduced to ketyl radicals, which couple to form a C–C bond between the former carbonyl carbons. Subsequent protonation of the alkoxide intermediates yields the vicinal diol product characteristic of the pinacol coupling."}
{"reaction_id": "NR-074_1-C(C)(C)C_2-C(F)(F)F_3-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2_4-C(C)(C)C","name": "Fries Rearrangement","level": "medium","reactants_smiles": ["c1(OC(=O)C(C)(C)C)c(C(C)(C)C)c(C(F)(F)F)cc(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)c1"],"products_smiles": ["C(=O)(C(C)(C)C)c1c(O)c(C(C)(C)C)c(C(F)(F)F)cc1CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2"],"conditions": "AlCl3","mechanism": [{"step": 1,"type": "coordination","subtype": "lewis_acid_base_coordination","intermediate_smiles": "c1(OC(=[O+][Al-](Cl)(Cl)Cl)C(C)(C)C)c(C(C)(C)C)c(C(F)(F)F)cc(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)c1","rationale": "AlCl3, a strong Lewis acid, coordinates to the ester carbonyl oxygen, withdrawing electron density and enhancing the carbonyl carbon's electrophilicity for subsequent bond cleavage."},{"step": 2,"type": "cleavage","subtype": "heterolytic_cleavage","intermediate_smiles": "[O+]#CC(C)(C)C.c1(O[Al-](Cl)(Cl)Cl)c(C(C)(C)C)c(C(F)(F)F)cc(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)c1","rationale": "Heterolytic cleavage occurs as the polarized C–O bond breaks, favored by the stability of the acylium ion through resonance and the strong Al–O bond formation."},{"step": 3,"type": "substitution","subtype": "electrophilic_substitution","intermediate_smiles": "C(=O)(C(C)(C)C)C1=C(O[Al-](Cl)(Cl)Cl)C(C(C)(C)C)=C(C(F)(F)F)C=C1(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)","rationale": "The acylium ion acts as a potent electrophile, undergoing electrophilic aromatic substitution at an activated ring position, driven by aromatic π-electron donation to stabilize the σ-complex."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(C(C)(C)C)c1c(O[Al](Cl)Cl)c(C(C)(C)C)c(C(F)(F)F)cc1CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2","rationale": "Proton transfer from the σ-complex oxygen to the Al-bound oxygen restores aromaticity, facilitated by the Lewis acidic Al center stabilizing the alkoxide."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(C(C)(C)C)c1c(O)c(C(C)(C)C)c(C(F)(F)F)cc1CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2","rationale": "Final proton transfer liberates the free phenolic OH, driven by the thermodynamic stability of the neutral product and release of AlCl3 for catalyst turnover."}],"description": "In the Fries rearrangement, AlCl3 coordinates to the ester carbonyl, increasing electrophilicity and promoting cleavage to generate an acylium ion. This electrophile undergoes intramolecular electrophilic aromatic substitution, followed by sequential proton transfers to restore aromaticity and yield the hydroxyaryl ketone."}
